US08492378B2
benzyl[4-[5-[2-(3-fluorophenyl)ethyl]-1,3,4-oxadiazol-2-yl]-2-pyridyl]carbamate
To a solution of 4-[5-[2-(3-fluorophenyl)ethyl]-1,3,4-oxadiazol-2-yl]pyridin-2-amine (280 mg, 0.985 mmol), triethylamine (0.82 mL, 5.92 mmol) and 4-dimethylaminopyridine (12 mg, 0.0985 mmol) in tetrahydrofuran (10 mL) was added benzyl chloroformate (0.70 mL, 4.92 mmol) at 0° C., and the resulting mixture was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=95/5-0/100) and recrystallized from hexane/ethyl acetate to give the title compound (30 mg, yield 7%) as colorless crystals.

reactant | 4-[5-[2-(3-fluorophenyl)ethyl]-1,3,4-oxadiazol-2-yl]pyridin-2-amine | 0.985 mmol, 280 mg | FC=1C=C(C=CC1)CCC1=NN=C(O1)C1=CC(=NC=C1)N | C15H13FN4O
reactant | triethylamine | 5.92 mmol, 0.82 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 4.92 mmol, 0.70 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
catalyst | 4-dimethylaminopyridine | 0.0985 mmol, 12 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl[4-[5-[2-(3-fluorophenyl)ethyl]-1,3,4-oxadiazol-2-yl]-2-pyridyl]carbamate | 30 mg, yield 7% | C(C1=CC=CC=C1)OC(NC1=NC=CC(=C1)C=1OC(=NN1)CCC1=CC(=CC=C1)F)=O | C23H19FN4O3
